US06809097B1
A suspension of 4-chloro-6,7-dimethoxyquinoline (300 mg, 1.3 mmol), (prepared as described for the starting material in Example 2), and 3-hydroxy-4-methylaniline (181 mg, 1.47 mol) in 2-butanol (13 ml) containing 5M hydrogen chloride in isopropanol (3 drops) was heated at 110° C. for 5.5 hours. Ethanol was added until the solids were completely dissolved and the solution was cooled to 0° C. Ether was added and the precipitate was collected by filtration, washed with ether and dried under vacuum to give 6,7-dimethoxy-4-(3-hydroxy-4-methylanilino)quinoline (209 mg, 46%).

reactant | 4-chloro-6,7-dimethoxyquinoline | 1.3 mmol, 300 mg | ClC1=CC=NC2=CC(=C(C=C12)OC)OC | C11H10ClNO2
reactant | 3-hydroxy-4-methylaniline | 1.47 mol, 181 mg | OC=1C=C(N)C=CC1C | C7H9NO
reactant | hydrogen chloride | 5M | Cl | ClH
reactant | Ethanol | C(C)O | C2H6O
solvent | 2-butanol | 13 ml | CC(CC)O | C4H10O
catalyst | isopropanol | 3 drops | C(C)(C)O | C3H8O
solvent | Ether | CCOCC | C4H10O
product | 6,7-dimethoxy-4-(3-hydroxy-4-methylanilino)quinoline | 209 mg, 46% | COC=1C=C2C(=CC=NC2=CC1OC)NC1=CC(=C(C=C1)C)O | C18H18N2O3
